US05298652
To an ice bath cooled solution of 3.1 g (10.06 mmol) of N-(3-aminobenzoyl)-N-(2-ethoxy-2-oxoethyl)glycine ethyl ester and 2.6 ml (19 mmol) of triethylamine in 60 ml of methylene chloride was added dropwise 3.2 ml (9.6 mmol) of stearoyl chloride. The reaction mixture was stirred in the cold for 30 minutes and then at room temperature for 5 hours. The mixture was poured into water containing 1N HCl and the product was extracted with ethyl acetate. The dried extract was concentrated to a solid which was purified by chromatography on 70 g of silica gel using 35% ethyl acetate: 10% methylene chloride: 55% hexane and then recrystallization from ethyl acetate-hexane to give 4.5 g (78% yield, mp 76°-79°) of N-(2-ethoxy-2-oxoethyl)-N-[3-(1-oxooctadecylamino)benzoyl]glycine ethyl ester.

reactant | N-(3-aminobenzoyl)-N-(2-ethoxy-2-oxoethyl)glycine ethyl ester | 10.06 mmol, 3.1 g | C(C)OC(CN(CC(=O)OCC)C(C1=CC(=CC=C1)N)=O)=O | C15H20N2O5
reactant | triethylamine | 19 mmol, 2.6 ml | C(C)N(CC)CC | C6H15N
reactant | stearoyl chloride | 9.6 mmol, 3.2 ml | C(CCCCCCCCCCCCCCCCC)(=O)Cl | C18H35ClO
reactant | water | 1N | O | H2O
solvent | methylene chloride | 60 ml | C(Cl)Cl | CH2Cl2
product | N-(2-ethoxy-2-oxoethyl)-N-[3-(1-oxooctadecylamino)benzoyl]glycine ethyl ester | 4.5 g, 78% yield | C(C)OC(CN(C(C1=CC(=CC=C1)NC(CCCCCCCCCCCCCCCCC)=O)=O)CC(=O)OCC)=O | C33H54N2O6
